US07989457B2
To a solution of 3-{4-[1-(6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-hept-1-enyl]-benzoylamino}-propionic acid methyl ester (330 mg) in ethanol (10 mL) is added Pd/C (5%, 20 mg). The system is purged with N2, filled with H2 (30 PSI), stirred at room temperature for 5 h. Then the mixture is filtered through celites, and the filtrate is concentrated to give 3-{4-[1-(6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-heptyl]-benzoylamino}-propionic acid methyl ester (290 mg), hydrolyze by 5N NaOH (0.5 mL) to afford the titled compound. MS (ES): 540.3 [M+H]−.

reactant | 3-{4-[1-(6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-hept-1-enyl]-benzoylamino}-propionic acid methyl ester | 330 mg | COC(CCNC(C1=CC=C(C=C1)C(=CCCCCC)C=1C=C(C(=CC1)OC)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C32H34F3NO4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 3-{4-[1-(6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-heptyl]-benzoylamino}-propionic acid methyl ester | 290 mg | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)C=1C=C(C(=CC1)OC)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C32H36F3NO4
